US09107916B2
A. (3-chloro-4-methylphenyl)methanol
To a solution of 4-chloro-2-methylbenzoic acid (800 mg, 4.69 mmol) in THF (8 mL) that was cooled at 0° C., BH3THF (14 mL, 1M in THF) was added into the solution drop wise. The mixture was then stirred at r.t. overnight. Add methanol to the system at 0° C. slowly until no gas released. Remove the solvent and the residue was extracted with ethylacetate, concentrated the organic phase to give 894 mg of the title compound (85%). 1H NMR (400 MHz, CDCl3): δ 2.36 (3H, s), 4.63 (2H, s), 7.13-7.22 (2H, m), 7.35 (1H, s).

reactant | 4-chloro-2-methylbenzoic acid | 4.69 mmol, 800 mg | ClC1=CC(=C(C(=O)O)C=C1)C | C8H7ClO2
reactant | BH3THF | 1M, 14 mL | B.C1CCOC1
reactant | methanol | CO | CH4O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | (3-chloro-4-methylphenyl)methanol | 894 mg, 85% | ClC=1C=C(C=CC1C)CO | C8H9ClO
